US07449475B2
2-methyl-1,3-benzoxazol-6-yl acetate
A slurry of 2-methyl-1,3-benzoxazol-6-ol (7.1 g, 47.8 mmol) in tetrahydrofuran was cooled to 10° C. and triethylamine (5.8 mL, 81.3 mmol) was added in one portion, followed by the addition of acetyl chloride (11.3 mL, 81.6 mmol) in small portions. After stirring at room temperature over night the reaction mixture was partitioned between water and ethyl acetate. The organic phase was washed twice with water and concentrated to give the titled compound (8.2 g, 90%) as a beige solid.

reactant | 2-methyl-1,3-benzoxazol-6-ol | 47.8 mmol, 7.1 g | CC=1OC2=C(N1)C=CC(=C2)O | C8H7NO2
reactant | triethylamine | 81.3 mmol, 5.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 81.6 mmol, 11.3 mL | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methyl-1,3-benzoxazol-6-yl acetate | 8.2 g, 90% | C(C)(=O)OC1=CC2=C(N=C(O2)C)C=C1 | C10H9NO3
